US07618990B2
A mixture of 2-bromo-4-(4-bromophenyl)-1,3-thiazole (1.01 g, 3.16 mmol), prepared in step 2 of Example 1, and (S)-(+)-2-amino-1-propanol (738 μL, 9.48 mmol) was stirred under nitrogen at 150° C. for 1 h. After cooling to room temperature, the solid was taken up in methylene chloride and purified on a Horizon™ Flash Collector (the Biotage FLASH 40+™ cartridge) using a linear gradient of 10% ethyl acetate-methylene chloride to 40% ethyl acetate-methylene chloride as the eluent. Isolation of the more polar fraction gave (2S)-2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}propan-1-ol (415 mg, 42%) as a yellow oil; MS (ES) m/z 313.0 [M+H]+.

reactant | 2-bromo-4-(4-bromophenyl)-1,3-thiazole | 3.16 mmol, 1.01 g | BrC=1SC=C(N1)C1=CC=C(C=C1)Br | C9H5Br2NS
reactant | (S)-(+)-2-amino-1-propanol | 9.48 mmol, 738 μL | N[C@H](CO)C | C3H9NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2S)-2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}propan-1-ol | 415 mg, 42% | BrC1=CC=C(C=C1)C=1N=C(SC1)N[C@H](CO)C | C12H13BrN2OS
